US08975415B2
The mixture of ethyl 1-{[(methylsulfonyl)oxy]methyl}cyclobutanecarboxylate (1.50 g, 6.3 mmol), 4-bromophenol (1.2 g, 7.0 mmol), and caesium carbonate (4.13 g, 7.0 mmol) in DMF (15 ml) was stirred for 6 hours at 135° C. After dilution with EtOAc and H2O, the organic layer was washed with H2O, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel chromatography (hexane:EtOAc=100:0-70:30) to give ethyl 1-[(4-bromophenoxy)methyl]cyclobutanecarboxylate (919 mg).

reactant | ethyl 1-{[(methylsulfonyl)oxy]methyl}cyclobutanecarboxylate | 6.3 mmol, 1.50 g | CS(=O)(=O)OCC1(CCC1)C(=O)OCC | C9H16O5S
reactant | 4-bromophenol | 7.0 mmol, 1.2 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | caesium carbonate | 7.0 mmol, 4.13 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | ethyl 1-[(4-bromophenoxy)methyl]cyclobutanecarboxylate | 919 mg | BrC1=CC=C(OCC2(CCC2)C(=O)OCC)C=C1 | C14H17BrO3
